US06090813
A suspension of 1-(4-pyridyl)piperidine-4-carbonyl chloride (0.94 g) in dichloromethane (20 ml) was added slowly to a stirred solution of 4-(4-bromophenoxy)piperidine (1.0 g) and triethylamine (1.09 ml) in dichloromethane (10 ml) at 5° C. under an atmosphere of argon. The mixture was stirred at ambient temperature for 16 hours, and then the solvent was removed by evaporation. The residue was triturated with water. The resulting solid was collected by filtration and recrystallised from ethanol (10 ml) to give 4-(4-bromophenoxy)-1-[1-[4-pyridyl]piperidin-4-ylcarbonyl]piperidine (0.58 g) as an off-white solid, m.p. 127-130° C.;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | 0.94 g | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | 4-(4-bromophenoxy)piperidine | 1.0 g | BrC1=CC=C(OC2CCNCC2)C=C1 | C11H14BrNO
reactant | triethylamine | 1.09 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(4-bromophenoxy)-1-[1-[4-pyridyl]piperidin-4-ylcarbonyl]piperidine | 0.58 g | BrC1=CC=C(OC2CCN(CC2)C(=O)C2CCN(CC2)C2=CC=NC=C2)C=C1 | C22H26BrN3O2
